US07544699B2
To a solution of 1-cyclopentylmethyl-7-hydroxy-isoquinoline-3-carboxylic acid methyl ester (0.500 g, 1.647 mmol) in anhydrous DCM (10 mL) at 0 C. was added triflic anhydride (0.557 g, 1.976 mmol) and triethylamine (0.460 mL, 3.294 mmol). The reaction was stirred at 0° C. for 10 min and warmed to rt and stirred for 1 h. The reaction mixture was diluted with DCM and the organic layer was washed with satd. Na2CO3, brine, dried (Na2SO4), and concentrated under reduced pressure to give 0.510 g of 1-cyclopentylmethyl-7-trifluoromethanesulfonyloxy-isoquinoline-3-carboxylic acid methyl ester. This was used without further purification for the next step.

reactant | 1-cyclopentylmethyl-7-hydroxy-isoquinoline-3-carboxylic acid methyl ester | 1.647 mmol, 0.500 g | COC(=O)C=1N=C(C2=CC(=CC=C2C1)O)CC1CCCC1 | C17H19NO3
reactant | triflic anhydride | 1.976 mmol, 0.557 g | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | triethylamine | 3.294 mmol, 0.460 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-cyclopentylmethyl-7-trifluoromethanesulfonyloxy-isoquinoline-3-carboxylic acid methyl ester | 0.510 g | COC(=O)C=1N=C(C2=CC(=CC=C2C1)OS(=O)(=O)C(F)(F)F)CC1CCCC1 | C18H18F3NO5S
